US08080542B2
Benzyl 1-(4-(2-(5-benzylpyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylate
Methyl 1-(4-(2-(5-bromopyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylate (340.0 mg, 843 μmol), PdCl2(P(t-Bu)2Ph)2 (37 mg, 59 μmol), and THF (4.0 mL) were combined under an argon atmosphere. Benzylzinc(II) bromide (0.5M in THF; 1.92 mL, 961 μmol) was added via syringe, and the resulting solution was stirred at 25° C. for 1 h. Additional benzylzinc(II) bromide (0.5M in THF; 1.92 mL) was then added, and the resulting solution was stirred for 1 h at 25° C. A third portion of benzylzinc(II) bromide (0.5M in THF; 1.92 mL) was then added, and the resulting solution was stirred for 1 h at 25° C. The mixture was subsequently partitioned between half-saturated aqueous NaHCO3 (50 mL) and EtOAc (100 mL). The organic layer was separated, washed with brine (30 mL), dried over Na2SO4, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-100% EtOAc/Hexanes) separately furnished benzyl 1-(4-(2-(5-benzylpyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylate (MS (ESI) m/z: Calculated: 490.2; Observed: 490.8 (M++1)) and methyl 1-(4-(2-(5-benzylpyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylate (MS (ESI) m/z: Calculated: 414.2; Observed: 414.8 (M++1)) as a yellow oils.

reactant | Methyl 1-(4-(2-(5-bromopyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylate | 843 μmol, 340.0 mg | BrC=1C=CC(=NC1)C#CC1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C19H16BrFN2O2
reactant | Benzylzinc(II) bromide | 961 μmol, 0.5M, 1.92 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | benzylzinc(II) bromide | 0.5M, 1.92 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | benzylzinc(II) bromide | 0.5M, 1.92 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | Benzyl 1-(4-(2-(5-benzylpyridin-2-yl)ethynyl)-3-fluorobenzyl)azetidine-3-carboxylate | C(C1=CC=CC=C1)C=1C=CC(=NC1)C#CC1=C(C=C(CN2CC(C2)C(=O)OCC2=CC=CC=C2)C=C1)F | C32H27FN2O2
